US08957203B2
Step 3: Preparation of (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid
To a solution of (2R,6S,7R,13aS,14aR,16aS,Z)-ethyl 6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate (400 mg, 0.56 mmol) in THF/water (1:1) was added LiOH (235 mg, 5.61 mmol) followed by 5 mL of methanol at room temperature. The reaction mixture was stirred at room temperature for overnight. The solvent was removed under reduced pressure and the residue was diluted with water and acidified by aqueous 1.5 N HCl solutions. The aqueous solution was extracted with ethyl acetate. The combined organic layer was washed with water, dried over anhydrous Na2SO4 and concentrated to get desired product (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid as diastereomeric mixture (310 mg, 81%).

reactant | (2R,6S,7R,13aS,14aR,16aS,Z)-ethyl 6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 0.56 mmol, 400 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC=C(C1=C(C=CC=C31)Cl)OC)=O)(C2)C(=O)OCC)C)C | C37H49ClN4O8
reactant | LiOH | 5.61 mmol, 235 mg | [Li+].[OH-]
reactant | methanol | 5 mL | CO | CH4O
solvent | THF water | C1CCOC1.O
product | (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((5-chloro-4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC=C(C1=C(C=CC=C31)Cl)OC)=O)(C2)C(=O)O)C)C | C35H45ClN4O8
